US08623889B2
Step 5: 3-(2-chlorophenyl)-7-(cyclopropanecarboxamido)-2,6-naphthyridine 2-oxide
A mixture of 7-chloro-3-(2-chlorophenyl)-2,6-naphthyridine 2-oxide (2.0 g, 7.0 mmol), cyclopropanecarboxamide (653 mg, 7.7 mmol), Chloro[2-(dicyclohexylphosphino)-3-,6-dimethoxy-2,4′-6′-tri-1-pr-1,1′-biphenyl)][2-(2-aminoethyl)Ph]Pd(II) (167 mg, 0.21 mmol), (dicyclohexylphosphino)-3-,6-dimethoxy-2,4′-6′-tri-1-pr-1,1′-biphenyl (281 mg, 0.52 mmol), and cesium carbonate (4.5 g, 13.9 mmol) in 1,4-dioxane (19 mL) was heated at 90° C. for 4 hours. The cooled reaction mixture was diluted with dichloromethane (200 mL) and methanol (100 mL), mixed with Celite, filtered, the solids washed with 15% methanol/dichloromethane (2×100 mL), and the filtrate was dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 40 g, ISCO, 0-10% methanol in dichloromethane) to afford the title compound as an off-white solid (2.0 g, 84%). 1H NMR (400 MHz, DMSO) δ 11.15 (s, 1H), 9.13 (s, 1H), 9.09 (s, 1H), 8.42 (s, 1H), 8.17 (s, 1H), 7.62 (m, 1H), 7.58-7.45 (m, 3H), 2.14-2.03 (m, 1H), 0.91-0.82 (m, 4H). LCMS (Method G): RT=8.18 min, M+H+=340.0.

reactant | 7-chloro-3-(2-chlorophenyl)-2,6-naphthyridine 2-oxide | 7.0 mmol, 2.0 g | ClC1=NC=C2C=C([N+](=CC2=C1)[O-])C1=C(C=CC=C1)Cl | C14H8Cl2N2O
reactant | cyclopropanecarboxamide | 7.7 mmol, 653 mg | C1(CC1)C(=O)N | C4H7NO
reactant | cesium carbonate | 13.9 mmol, 4.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 19 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | methanol | 100 mL | CO | CH4O
product | 3-(2-chlorophenyl)-7-(cyclopropanecarboxamido)-2,6-naphthyridine 2-oxide | 2.0 g, 84% | ClC1=C(C=CC=C1)C=1[N+](=CC2=CC(=NC=C2C1)NC(=O)C1CC1)[O-] | C18H14ClN3O2
